US04140775
In the manner given in Example 1A, p-nitrobenzyl chloride is reacted with phenylpiperazine dihydrochloride in the presence of triethylamine to give 1-phenyl-4-(p-nitrobenzyl)piperazine

reactant | p-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | phenylpiperazine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)N1CCNCC1
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-phenyl-4-(p-nitrobenzyl)piperazine | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O2
